US06541481B2
A mixture of 2-amino-2-methyl-1-propanol (8.9 g, 0.1 mol), di-tert-butyldicarbonate (22.0 g, 0.1 mol), and Na2CO3 (21.0 g, 0.2 mol) in water/THF (150/150 mL) was refluxed for 1 hour. After removal of THF, the residue was partitioned between ether (200 mL) and water (150 mL). The separated organic layer was washed with brine (100 mL), dried over sodium sulfate, and concentrated to give 17.97 g (95%) of 2-(tert-butoxycarbonylamino)-2-methyl-1-propanol as waxy, white solid: 1H NMR (CDCl3) δ 1.23 (s, 6H), 1.41 (s, 9H), 3.56 (s, 2H).

reactant | 2-amino-2-methyl-1-propanol | 0.1 mol, 8.9 g | NC(CO)(C)C | C4H11NO
reactant | di-tert-butyldicarbonate | 0.1 mol, 22.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Na2CO3 | 0.2 mol, 21.0 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water THF | 150 mL | O.C1CCOC1
product | 2-(tert-butoxycarbonylamino)-2-methyl-1-propanol | 17.97 g, 95% | C(C)(C)(C)OC(=O)NC(CO)(C)C | C9H19NO3
